US04565863
25.1 g of 9-(4-methoxy-2,3,6-trimethylphenyl)-3,7-dimethyl-2,4,6,8-nonatetraenoic acid and 37.3 g of N,N-carbonyldiimidazole were dissolved in 890 ml of tetrahydrofuran and stirred at room temperature for 18 hours. The reaction mixture was then poured into 9 l of water while stirring, stirred for 15 minutes and filtered. The residue was dissolved in 1 l of methylene chloride, dried over sodium sulphate and evaporated. Recrystallization from methylene chloride-pentane yielded 1-[9-(4-methoxy-2,3,6-trimethylphenyl)-3,7-dimethyl-2,4,6,8-nonatetraenoyl]imidazole in the form of orange-yellow crystals of melting point 184°-185°.

reactant | 9-(4-methoxy-2,3,6-trimethylphenyl)-3,7-dimethyl-2,4,6,8-nonatetraenoic acid | 25.1 g | COC1=C(C(=C(C(=C1)C)C=CC(=CC=CC(=CC(=O)O)C)C)C)C | C21H26O3
reactant | N,N-carbonyldiimidazole | 37.3 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | water | 9 l | O | H2O
solvent | tetrahydrofuran | 890 ml | O1CCCC1 | C4H8O
product | 1-[9-(4-methoxy-2,3,6-trimethylphenyl)-3,7-dimethyl-2,4,6,8-nonatetraenoyl]imidazole | COC1=C(C(=C(C(=C1)C)C=CC(=CC=CC(=CC(=O)N1C=NC=C1)C)C)C)C | C24H28N2O2
